US07179804B2
[1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-[1-(2-chloro-phenyl)-1H-imidazol-2-yl]-methanone
Add BuLi (0.80 mL, 1.28 mmol) to a −78° C. solution of 1-(2-chloro-phenyl)-1H-imidazole (200 mg, 1.12 mmol) in THF (3 mL). Stir at −78° C. for 20 min., then add a solution of 1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazole-4-carboxylic acid methoxy-methyl-amide (261 mg, 0.57 mmol) in THF (2 mL) via cannula. Stir the resulting solution at −78° C. for 10 min., then allow to warm to RT and stir for 2 h. Add 1N HCl (1.3 mL) and stir for 30 min. Dilute reaction with EtOAc (50 mL) and wash with water (20 mL), saturated NaHCO3 (20 mL) and brine (20 mL). Dry, filter and concentrate the organic solution and purify the crude material by silica gel chromatography (20% to 80% EtOAc/hexanes) to give a brown solid. Trituration with cold ether gives the title compound as a fine white powder. MS [ES] 577.2 (M+H)+. 1H NMR (400 MHz, CHCl3) δ 8.68 (dd, 1H, J=1.4, 4.8 Hz), 8.48 (d, 1H, J=1.8 Hz), 7.81 (s, 1H), 7.48 (m, 3H), 7.46 (m, 1H), 7.44 (m, 1H), 7.34 (m, 4H), 7.17 (m, 1H), 5.60 (s, 2H).

reactant | BuLi | 1.28 mmol, 0.80 mL | [Li]CCCC
reactant | 1-(2-chloro-phenyl)-1H-imidazole | 1.12 mmol, 200 mg | ClC1=C(C=CC=C1)N1C=NC=C1 | C9H7ClN2
reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazole-4-carboxylic acid methoxy-methyl-amide | 0.57 mmol, 261 mg | CON(C(=O)C=1N=NN(C1C=1C=NC=CC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C19H15F6N5O2
reactant | HCl | 1N, 1.3 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | [1-(3,5-bis-trifluoromethyl-benzyl)-5-pyridin-3-yl-1H-[1,2,3]triazol-4-yl]-[1-(2-chloro-phenyl)-1H-imidazol-2-yl]-methanone | FC(C=1C=C(CN2N=NC(=C2C=2C=NC=CC2)C(=O)C=2N(C=CN2)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C26H15ClF6N6O
